US05504082
2-((3-Methyl-4-(2-benzylaminoethylthio)pyridin-2-yl)-methylthio)-1H-benzimidazole (2 g) was dissolved in dimethylformamide and reacted with methyl chloroacetate (0.45 ml) in the presence of potassium carbonate (0.71 g) at 50°-60° C. After the completion of the reaction, the dimethylformamide was distilled away and the residue was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate and the solvent was distilled away to give an oily product. The oily product was purified by column chromatography to give 2-((3-methyl-4-(2-(N-benzyl-N-methoxycarbonylmethylamino)ethylthio)-2-pyridyl)methylthio)-1H-benzimidazole.

reactant | 2-((3-Methyl-4-(2-benzylaminoethylthio)pyridin-2-yl)-methylthio)-1H-benzimidazole | 2 g | CC=1C(=NC=CC1SCCNCC1=CC=CC=C1)CSC1=NC2=C(N1)C=CC=C2 | C23H24N4S2
reactant | methyl chloroacetate | 0.45 ml | ClCC(=O)OC | C3H5ClO2
reactant | potassium carbonate | 0.71 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-((3-methyl-4-(2-(N-benzyl-N-methoxycarbonylmethylamino)ethylthio)-2-pyridyl)methylthio)-1H-benzimidazole | CC=1C(=NC=CC1SCCN(CC(=O)OC)CC1=CC=CC=C1)CSC1=NC2=C(N1)C=CC=C2 | C26H28N4O2S2
